US09145354B2
Step 2 Tert-butyl N-[(1R)-1-{4-chloro-2-fluoro-3-[(6-methoxypyridin-3-yl)carbonyl]phenyl}-propyl]carbamate (90.0 mg, 0.21 mmol) was dissolved in 6M HCl in water (5.0 mL) and the reaction was heated at reflux for 8 h. Complete conversion. Mixture was quenched with NaOH (5M) until pH˜5, then extracted with 4:1 CHCl3:IPA (3×20 mL). Combined organic extracts were dried (Na2SO4), filtered and concentrated in vacuo to give 5-({3-[(1R)-1-aminopropyl]-6-chloro-2-fluorophenyl}carbonyl)-1,2-dihydropyridin-2-one (56.2 mg, 88% yield).

reactant | Tert-butyl N-[(1R)-1-{4-chloro-2-fluoro-3-[(6-methoxypyridin-3-yl)carbonyl]phenyl}-propyl]carbamate | 0.21 mmol, 90.0 mg | ClC1=C(C(=C(C=C1)[C@@H](CC)NC(OC(C)(C)C)=O)F)C(=O)C=1C=NC(=CC1)OC | C21H24ClFN2O4
solvent | HCl | 6M | Cl | ClH
solvent | water | 5.0 mL | O | H2O
product | 5-({3-[(1R)-1-aminopropyl]-6-chloro-2-fluorophenyl}carbonyl)-1,2-dihydropyridin-2-one | 56.2 mg, 88% yield | N[C@H](CC)C=1C(=C(C(=CC1)Cl)C(=O)C=1C=CC(NC1)=O)F | C15H14ClFN2O2
